US04742057
In a stream of nitrogen gas, a mixture of 2-(3-methylureido)-4-chloromethylthiazole (1.0 g), 3-(4-piperidyl)indole (0.98 g), sodium hydrogen carbonate (0.45 g) and N,N-dimethylformamide (5 ml) was heated at 80° to 90° C. The reaction mixture was then concentrated and the residue was subjected to column chromatography on silica gel. Elution was carried out with a mixture of chloroform and methanol (10:1 V/V). The fractions containing the desired compound were collected and concentrated under reduced pressure. The residue was precipitated with n-hexane to give 4-[4-(3-indolyl)piperidinomethyl]-2-(3-methylureido)thiazole (540 mg).

reactant | 2-(3-methylureido)-4-chloromethylthiazole | 1.0 g | CNC(NC=1SC=C(N1)CCl)=O | C6H8ClN3OS
reactant | 3-(4-piperidyl)indole | 0.98 g | N1CCC(CC1)C1=CNC2=CC=CC=C12 | C13H16N2
reactant | sodium hydrogen carbonate | 0.45 g | C(O)([O-])=O.[Na+]
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 4-[4-(3-indolyl)piperidinomethyl]-2-(3-methylureido)thiazole | 540 mg | N1C=C(C2=CC=CC=C12)C1CCN(CC1)CC=1N=C(SC1)NC(=O)NC | C19H23N5OS
